US07326801B2
(R)-2-Ethyl-4-(4-heptyloxy-phenyl)-2-methylamino-butan-1-ol
(R)-2-amino-2-ethyl-4-(4-heptyloxy-phenyl)-butyric acid ethyl ester (175 mg; 0.5 mmol) is dissolved in dichloromethane (2) and formic acid (100 μl), p-formaldehyde (100 μl; 30% in water) and NaBH3CN are added. After 1 hour at RT the reaction mixture is extracted with saturated aqueous NaHCO3 solution and the organic layer is dried over MgSO4 and purified on silica gel using n-hexanetethyl acetate (1/1→1/9) as mobile phase.

reactant | (R)-2-amino-2-ethyl-4-(4-heptyloxy-phenyl)-butyric acid ethyl ester | 0.5 mmol, 175 mg | C(C)OC([C@](CCC1=CC=C(C=C1)OCCCCCCC)(CC)N)=O | C21H35NO3
reactant | NaBH3CN | [BH3-]C#N.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | formic acid | 100 μl | C(=O)O | CH2O2
product | (R)-2-Ethyl-4-(4-heptyloxy-phenyl)-2-methylamino-butan-1-ol | C(C)[C@](CO)(CCC1=CC=C(C=C1)OCCCCCCC)NC | C20H35NO2
